US06218128B1
To a solution of ethyl 4-[[4-(4-ethylphenyl)-2,2-dimethyl-(2H)-thiochromen-6-yl]ethynyl]-benzoate (940.0 mg. 2.08 mmol) in 10.0 mL THF and 5.0 mL EtOH was added NaOH (416.0 mg, 10.4 mmol, 5.2 mL of a 2M aqueous solution). The resulting solution was stirred overnight at room temperature. The reaction was acidified with 10% aqueous HCl and extracted with EtOAc. The combined organic layers were washed with H2O, saturated aqueous NaCl, and dried (Na2SO4) before removing the solvent under reduced pressure. The residual solid was recrystallized from CH3CN to give 786.0 mg (89%) of 4-[[4-(4-ethylphenyl)-2,2-dimethyl-2H)-thiochromen-6-yl]-ethynyl]-benzoic acid as a colorless solid. 1H NMR (300 MHz, d5 acetone) δ: 8.01 (2H, d, J=8.3 Hz), 7.60 (2H, d, J=8.5 Hz), 7.42 (2H, m), 7.29 (2H, m), 7.22 (3H, m), 5.94 (1H, s), 2.69 (2H, 1, J=7.7 Hz), 1.47 (6H, s), 1.25 (3H, t, J=7.7 Hz). This compound is hereinafter designated as AGN 194310.

reactant | ethyl 4-[[4-(4-ethylphenyl)-2,2-dimethyl-(2H)-thiochromen-6-yl]ethynyl]-benzoate | 2.08 mmol, 940.0 mg | C(C)C1=CC=C(C=C1)C1=CC(SC2=CC=C(C=C12)C#CC1=CC=C(C(=O)OCC)C=C1)(C)C | C30H28O2S
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | EtOH | 5.0 mL | CCO | C2H6O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
